US07759349B2
Preparation of 2-(4-Ethoxyphenyl)-5-methyl-6-propoxyimidazo[1,2-b]pyridazine (Compound 33)
A stirred mixture of 6-cyclopropylmethoxypyridazin-3-amine (165 mg, 1 mmol), 2-bromo-1-(4-ethoxyphenyl)ethanone (243 mg, 1 mmol) and ethanol (10 mL) was heated under reflux for 3 hours. Sodium hydrogen carbonate (84 mg, 1 mmol) was added and the refluxing was continued for another 3 hours. The mixture was evaporated. The residue was extracted with chloroform (50 mL) and the extract washed with saturated, aqueous, sodium chloride solution (50 mL), dried (MgSO4) and evaporated. The residue was purified by flash chromatography on silica gel. Elution with 1% methanol in dichloromethane afforded Compound 33 (140 mg). 1H n.m.r. (CDCl3) δ 0.30-0.42, m, 2H; 0.60-0.74, m, 2H; 1.20-1.38, m, 1H; 1.40, t, 3H; 4.04, q, 2H; 4.14, d, 2H; 6.70, d, 1H; 6.96, d, 2H; 7.74, d, 1H; 7.80, d, 2H; 7.88, s, 1H.

reactant | 6-cyclopropylmethoxypyridazin-3-amine | 1 mmol, 165 mg | C1(CC1)COC1=CC=C(N=N1)N | C8H11N3O
reactant | 2-bromo-1-(4-ethoxyphenyl)ethanone | 1 mmol, 243 mg | BrCC(=O)C1=CC=C(C=C1)OCC | C10H11BrO2
reactant | Sodium hydrogen carbonate | 1 mmol, 84 mg | C(O)([O-])=O.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(4-Ethoxyphenyl)-5-methyl-6-propoxyimidazo[1,2-b]pyridazine | C(C)OC1=CC=C(C=C1)C1=NC=2N(N(C(=CC2)OCCC)C)C1 | C18H23N3O2
